US09108936B2
To a stirred solution of 2-(ethylsulfinyl)-6-methyl-4-morpholin-4-yl-benzonitrile (0.78 g, 2.81 mmol) in ethanol (8.5 ml) is added a 5M solution of sodium hydroxide (8.5 ml) and the mixture is heated at 80° C. for 16 h. After completion of the reaction (monitored by TLC) the reaction mixture is concentrated to get a residue, which is diluted with water (10 ml) and extracted with ethyl acetate (3×30 ml). The combined organic layers are washed with water (10 ml), brine (10 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product which is purified by column chromatography (alumina, 5% methanol/dichloromethane) to yield 2-(ethylsulfinyl)-6-methyl-4-morpholin-4-yl-benzamide (0.30 g, 1.01 mmol, 36%).

reactant | 2-(ethylsulfinyl)-6-methyl-4-morpholin-4-yl-benzonitrile | 2.81 mmol, 0.78 g | C(C)S(=O)C1=C(C#N)C(=CC(=C1)N1CCOCC1)C | C14H18N2O2S
reactant | sodium hydroxide | 8.5 ml | [OH-].[Na+]
solvent | ethanol | 8.5 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(ethylsulfinyl)-6-methyl-4-morpholin-4-yl-benzamide | 1.01 mmol, 0.30 g, 36% | C(C)S(=O)C1=C(C(=O)N)C(=CC(=C1)N1CCOCC1)C | C14H20N2O3S
